US05260316
To a solution of 6-bromo-1-oxo-1,2,3,4-tetrahydroisoquinoline (2.82 g, 12.5 mmol) in DMF (80 ml) is added 1-bromo-3-phenylpropane (2.89 ml, 18.75 mmol), KI (200 mg, 1.25 mmol) and NaH (600 mg, 25 mmol). The reaction mixture is stirred for 3 hours and subsequently poured into H2O (300 ml). The resulting emulsion is extracted with EtOAc (2×150 mL) and the organic phase washed with 2N HCl (1×200 mL), H2O (1×200 mL), saturated NaHCO3 solution (1×200 mL), saturated NaCl solution (2×200 mL), dried over MgSO4 and concentrated in vacuo. The residue is chromatographed (silica gel, 9:1 hexane/EtOAc) to give 2-(3-phenylpropyl)-6-bromo-1-oxo-1,2,3,4-tetrahydroisoquinoline.

reactant | 6-bromo-1-oxo-1,2,3,4-tetrahydroisoquinoline | 12.5 mmol, 2.82 g | BrC=1C=C2CCNC(C2=CC1)=O | C9H8BrNO
reactant | 1-bromo-3-phenylpropane | 18.75 mmol, 2.89 ml | BrCCCC1=CC=CC=C1 | C9H11Br
reactant | NaH | 25 mmol, 600 mg | [H-].[Na+]
reactant | H2O | 300 ml | O | H2O
solvent | DMF | 80 ml | CN(C)C=O | C3H7NO
product | 2-(3-phenylpropyl)-6-bromo-1-oxo-1,2,3,4-tetrahydroisoquinoline | C1(=CC=CC=C1)CCCN1C(C2=CC=C(C=C2CC1)Br)=O | C18H18BrNO
